US04963544
To a solution of calcium hydroxide (2.25 g) and (2S,4R)-1-allyloxycarbonyl-2-(imidazol-1-yl)methyl-4-methanesulfonyloxypyrrolidine (10 g) in 4-methyl-2-pentanone (60 ml) was added dropwise thioacetic S-acid (4.38 ml) with stirring below 45° C. The solvent (18 ml) of the mixture was removed under reduced pressure at 40°-45° C. The resulting suspension was heated at 80°-85° C. for 2 hours. After cooling, water (20 ml) and ethyl acetate (20 ml) was added to the reaction mixture The insoluble material was filtered off and washed with ethyl acetate (30 ml). The filtrate and washing were combined. The organic layer was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo to give (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-(imidazol-1-yl)methylpyrrolidine (7.94 g).

reactant | calcium hydroxide | 2.25 g | [OH-].[Ca+2].[OH-]
reactant | (2S,4R)-1-allyloxycarbonyl-2-(imidazol-1-yl)methyl-4-methanesulfonyloxypyrrolidine | 10 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CN1C=NC=C1 | C13H19N3O5S
reactant | thioacetic S-acid | 4.38 ml | C(C)(=O)S | C2H4OS
solvent | 4-methyl-2-pentanone | 60 ml | CC(CC(C)=O)C | C6H12O
product | (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-(imidazol-1-yl)methylpyrrolidine | 7.94 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC=C)CN1C=NC=C1 | C14H19N3O3S
